US05840913
As in Example 2, the column was charged with 30 g of glass rings of diameter 3 mm, 16.4 g (0.24 mol) of pyrazole and 1.02 g (0.01 mol) of 96% by weight sulfuric acid, heated to 195° C. and reacted over the course of 7 hours with 703 g (9.5 mol) of tert-butanol vaporized at 180° C. 21.7 g of N-tert-butylpyrazole were obtained, boiling point 103° C., with a content of 99.4% (GC), which corresponds to a yield of 72.5%.

reactant | pyrazole | 0.24 mol, 16.4 g | N1N=CC=C1 | C3H4N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | tert-butanol | 9.5 mol, 703 g | C(C)(C)(C)O | C4H10O
product | N-tert-butylpyrazole | 21.7 g, yield of 72.5% | C(C)(C)(C)N1N=CC=C1 | C7H12N2
